US05708008
5-(cyclopentanecarbonyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 12.0 mg (0.05 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole and 11.0 mg (0.10 mMol) cyclopentanecarboxylic acid, 16.4 mg (100+%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.05 mMol, 12.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | cyclopentanecarboxylic acid | 0.10 mMol, 11.0 mg | C1(CCCC1)C(=O)O | C6H10O2
product | 5-(cyclopentanecarbonyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | C1(CCCC1)C(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C20H27N3O
